US07884109B2
Trans-4-(2-Chloro-5nitropyrimidin-4-ylamino)cyclohexanol.
A solution of 2,4-dicloro-5-nitropyrimidine (930 mg) in DCM (40 mL) was treated with DIEA (0.9 mL) and trans-4-aminocyclohexanol (345 mg) at −78° C. for 6 hours. The mixture was allowed to slowly warm to room temperature and stirred for 12 more hours. The solvent was evaporated and the crude mixture was purified by silica gel chromatography (DCM:EtOAc 70:30) to provide 630 mg of the title compound.

reactant | 2,4-dicloro-5-nitropyrimidine | 930 mg | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | DIEA | 0.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trans-4-aminocyclohexanol | 345 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | Trans-4-(2-Chloro-5nitropyrimidin-4-ylamino)cyclohexanol | 630 mg | ClC1=NC=C(C(=N1)N[C@@H]1CC[C@H](CC1)O)[N+](=O)[O-] | C10H13ClN4O3
